US06784192B2
(2-Methoxy-3-pyridyl)methyl cyanide
4 g of (2-methoxy-3-pyridyl)methyl chloride, 2.5 g of sodium cyanide and 10 ml of DMF were stirred under heating for 10 minutes. Water was added thereto, and the mixture was extracted with ethyl acetate and dried over anhydrous magnesium sulfate. The drying agent was removed, and the solvent was evaporated. The residue was purified by silica gel chromatography (hexane:ethyl acetate=3:1), to give 2.5 g of a colorless oil.

reactant | (2-methoxy-3-pyridyl)methyl chloride | 4 g | COC1=NC=CC=C1CCl | C7H8ClNO
reactant | sodium cyanide | 2.5 g | [C-]#N.[Na+]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | (2-Methoxy-3-pyridyl)methyl cyanide | 2.5 g | COC1=NC=CC=C1CC#N | C8H8N2O
